US08541457B2
Preparation of 2-Benzoylamino-4-chlorothiazole-5-carboxylic Acid
A solution of sodium chlorite (2.20 g, 19.40 mmol) and NaH2PO4 (2.32 g, 19.10 mmol) in water (10 mL) was added to a mixture of N-(4-chloro-5-formylthiazol-2-yl)benzamide (0.52 g, 1.95 mmol) in acetonitrile (20 mL), t-BuOH (20 mL) and 2-methyl-2-butene (4 mL) at 0° C. The mixture was stirred for 1 h, then extracted with chloroform, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to give the crude product in 17% yield (0.097 g), which was used for next step without purification; MS (ES+) m/z 283.3 (M+1).

reactant | sodium chlorite | 19.40 mmol, 2.20 g | Cl(=O)[O-].[Na+]
reactant | N-(4-chloro-5-formylthiazol-2-yl)benzamide | 1.95 mmol, 0.52 g | ClC=1N=C(SC1C=O)NC(C1=CC=CC=C1)=O | C11H7ClN2O2S
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | t-BuOH | 20 mL | CC(C)(C)O | C4H10O
solvent | 2-methyl-2-butene | 4 mL | CC(C)=CC | C5H10
product | 2-Benzoylamino-4-chlorothiazole-5-carboxylic Acid | 17% yield | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)Cl)C(=O)O | C11H7ClN2O3S
